US07232616B2
Complex II-1 was synthesized through a reaction in the ethanol solution of 8-hydroxyquinoline, 2,2′-diol-stilbene (L3) and GaCl3. First, a solution of 8-hydroxyquinoline (0.05M) and piperidine (0.05M) in 100 ml ethanol was added to a solution of GaCl3 (0.5M) in 10 ml ethanol very slowly with an intensive stirring. Then, a solution of L3 (0.01M) and piperidine (0.02M) in 500 ml ethanol was introduced slowly. The mixture was stirred for about 1 hour and cooled to room temperature and kept in dark for about 1 hour. A scarlet precipitate was formed when equivalent amount water was poured into the solution. The product was collected by filtration and washed with ethanol rapidly, then dried under an infrared lamp. The obtained product powder showed strong red fluorescence under an ultraviolet lamp. The materials were further purified by an improved train sublimation method. The L3 ligand was obtained by typical synthesis method of stilbene. The molecular structure of Complex II-I was supported by mass spectrum (MS) and element analysis.

reactant | 8-hydroxyquinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 8-hydroxyquinoline | 0.05M | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | piperidine | 0.05M | N1CCCCC1 | C5H11N
reactant | piperidine | 0.02M | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | stilbene | yield of 78% | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
